US06184225B2
Diethyl azodicarboxylate (2.67 ml, 17 mmol) was added dropwise to a solution of 3-morpholinopropan-1-ol (1.54 g, 10 mmol), 7-hydroxy-3,4-dihydro-6-methoxy-3-((pivaloyloxy)methyl)quinazolin-4-one (2.6 g, 8.5 mmol) and triphenylphosphine (4.45 g, 17 mmol) in methylene chloride (40 ml). After stirring for 2 hours at ambient temperature, the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (97/3 followed by 95/5) to give 3,4-dihydro-6-methoxy-3-((pivaloyloxy)metyl)-7-(3-morpholinopropoxy)quinazolin-4-one (3.6 g, 97%).

reactant | Diethyl azodicarboxylate | 17 mmol, 2.67 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-morpholinopropan-1-ol | 10 mmol, 1.54 g | O1CCN(CC1)CCCO | C7H15NO2
reactant | 7-hydroxy-3,4-dihydro-6-methoxy-3-((pivaloyloxy)methyl)quinazolin-4-one | 8.5 mmol, 2.6 g | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | triphenylphosphine | 17 mmol, 4.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-6-methoxy-3-((pivaloyloxy)metyl)-7-(3-morpholinopropoxy)quinazolin-4-one | 3.6 g, 97% | COC=1C=C2C(N(C=NC2=CC1OCCCN1CCOCC1)COC(C(C)(C)C)=O)=O | C22H31N3O6
